US06727264B1
N-{3-[1-(3-METHOXYBENZYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
A mixture of 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (28.3 mg, 0.100 mmol), 3-methoxybenzyl chloride (19.6 mg, 0.125 mmol), diisopropylethylamine (0.50 mL), catalytic amount of tetrabutylammonium iodide and dioxane (2.0 mL). Chromatography using silica preparative TLC plates [2.5% of NH3 (2.0 M in methanol) in CHCl3] afforded the desired product (10.2 mg, 27.9% yield) as a yellow solid: 1H NMR (400 MHz, CDCl3) δ 7.46 (s, 1H), 7.35 (apparent d, 1H, J=8.3 Hz), 7.27-7.21 (m, 2H), 6.95 (apparent t, 3H, J=6.9 Hz), 6.82 (apparent dd, 1H, J=2.4, 8.3 Hz), 3.84 (m, 3H), 3.56 (s, 2H), 3.05 (d, 2H, J=10.5 Hz), 2.51 (apparent sept, partially hidden, 4H, J=7.2 Hz), 2.13 (apparent t, 2H, J=9.7 Hz), 1.88 (m, 2H), 1.25 (d, 6H, J=6.7 Hz); ESMS m/e: 367.3 (M+H)+.

reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.100 mmol, 28.3 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | 3-methoxybenzyl chloride | 0.125 mmol, 19.6 mg | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | diisopropylethylamine | 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH3 | 2.0 M | N | H3N
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | N-{3-[1-(3-METHOXYBENZYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | 10.2 mg, 27.9% yield | COC=1C=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1 | C23H30N2O2
